US05994368
To a solution of 8-[2,6-dichloro-3-[N-[4-[2,3-bis(tert-butoxycarbonyl)guanidino]cinnamoylglycyl]-N-methylamino]benzyloxy]-2-methylquinoline (51 mg) in ethyl acetate and methanol was added 4N solution of hydrogen chloride in methanol (0.5 ml), and themixture was stirred for 2 days at ambient temperature. The mixture was concentrated in vacuo, and the residuewas dissolved in methaol. The solution was adjusted to pH 7 to 8 with aqueous ammonia and concentrated in vacuo. The residue was purified by preparative thin-layer chromatography (chloroform-methanol-aqueous ammonia) to give 8-[2,6-dichloro-3-[N-(4-guanidinocinnamoylglycyl)-N-methylamino]benzyloxy]-2-methylquinoline (12 mg) as amorphous powder.

reactant | 8-[2,6-dichloro-3-[N-[4-[2,3-bis(tert-butoxycarbonyl)guanidino]cinnamoylglycyl]-N-methylamino]benzyloxy]-2-methylquinoline | 51 mg | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1N(C)C(CNC(C=CC1=CC=C(C=C1)NC(=NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)=O)=O)Cl | C40H44Cl2N6O7
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
solvent | methanol | 0.5 ml | CO | CH4O
product | 8-[2,6-dichloro-3-[N-(4-guanidinocinnamoylglycyl)-N-methylamino]benzyloxy]-2-methylquinoline | 12 mg | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1N(C)C(CNC(C=CC1=CC=C(C=C1)NC(=N)N)=O)=O)Cl | C30H28Cl2N6O3
